US05545750
(2S,3R,4R,5S)-2,5-Di-(N-((t-butyloxy)carbonyl)amino)-1,6-dicyclohexyl-3,4-dihydroxyhexane
A mixture of 180 mg (0.36 mmol) of (2S,3R,4R,5S)-2,5-di(N-((t-butyloxy)carbonyl)amino)-3,4-dihydroxy-1,6-diphenylhexane and 180 mg of 5% rhodium on carbon in 50 ml of methanol was shaken under 4 atmospheres of hydrogen for 24 h. The resulting mixture was filtered and concentrated in vacuo. The residue was purified by silica gel chromatography using 5% ethyl acetate in hexane to provide 120 mg (65%) of the desired compound (Rf 0.35, 30% ethyl acetate in hexane) as a white solid, m.p. 224°-226° C. Mass spectrum: (M+H)+ =513.

reactant | (2S,3R,4R,5S)-2,5-di(N-((t-butyloxy)carbonyl)amino)-3,4-dihydroxy-1,6-diphenylhexane | 0.36 mmol, 180 mg | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)[C@H]([C@@H]([C@H](CC1=CC=CC=C1)NC(=O)OC(C)(C)C)O)O | C28H40N2O6
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 ml | CO | CH4O
catalyst | rhodium on carbon | 180 mg | [Rh] | Rh
product | (2S,3R,4R,5S)-2,5-Di-(N-((t-butyloxy)carbonyl)amino)-1,6-dicyclohexyl-3,4-dihydroxyhexane | 120 mg | C(C)(C)(C)OC(=O)N[C@@H](CC1CCCCC1)[C@H]([C@@H]([C@H](CC1CCCCC1)NC(=O)OC(C)(C)C)O)O | C28H52N2O6
